US05438048
Preparation of (1-hydroxyethylidene)bisphosphonic acid monomethyl ester
Finely ground (1-hydroxyethylidene)bisphosphonic acid (0.005 moles) was mixed with 100 ml of chloroform and to the mixture 25 ml of an appr. 2% ether solution of diazomethane were slowly added at room temperature. After the addition, the mixing was continued for 1 hour, whereafter the solution was evaporated at reduced pressure (yield 42%, 31-P NMR 17.25/24.84 ppm, J=27.3; D2O).

reactant | (1-hydroxyethylidene)bisphosphonic acid | 0.005 moles | OC(C)(P(O)(O)=O)P(O)(O)=O | C2H8O7P2
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | (1-hydroxyethylidene)bisphosphonic acid monomethyl ester | yield 42% | COP(O)(=O)C(C)(O)P(O)(O)=O | C3H10O7P2
